US07384934B2
(R)-10-(3-Methoxymethyl-4-methyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Using a similar method to (R)-[1-methyl-4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-methanol, using (R)-10-(3-methoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (800 mg) affords the title compound as a yellow solid (758 mg): mp 76-80° C.; 1H NMR (CDCl3) δ 2.31 (s, 3H), 2.42-2.27 (m, 2H), 2.39 (s, 3H), 2.84 (dt, 1H), 2.99 (dd, 1H), 3.14 (ddd, 1H), 3.36 (s, 3H), 3.46 (dd, 1H), 3.54 (dd, 1H), 3.91 (d, 1H), 4.02 (d, 1H), 4.96 (s, 1H), 6.30 (d, 1H), 6.60 (dd, 1H), 6.87 (dt, 1H), 6.96 (dt, 1H), 7.04 (dd, 1H); MS (APCI) m/z (rel intensity) 357.2 (100).

reactant | (R)-[1-methyl-4-(2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-methanol | CN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)CO | C18H22N4OS
reactant | (R)-10-(3-methoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 800 mg | COC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C18H22N4OS
product | (R)-10-(3-Methoxymethyl-4-methyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 758 mg | COC[C@H]1CN(CCN1C)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C19H24N4OS
